US06277991B1
N-Benzyl-2-(8-naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetamide
To a suspension of the the commercially available aminomethylated polystyrene resin (Novabiochem) (20 g, 16 mmol) in dimethylformamide (70 ml) was added a solution of the commercially available BAL-Linker (PerSeptive Biosystems GMBH) (12.88 g, 48.0 mmol) and 1-hydroxybenzotriazole (7.26 g, 48.0 mmol) in 70 ml of dimethylformamide. To this was added N,N′-diisopropylcarbodiimide (6.06 g, 48.0 mmol) followed by N,N-diisopropylethylamine (6.19 g, 48.0 mmol). The reaction was allowed to stir 20 h at room temperature. The resin was filtered and washed as follows: 3×dimethylformamide (50 ml), 3×tetrahydrofuran (50 ml), 3×dichloromethane (50 ml), 3×ether (50 ml). The resin was dried in vacuo and isolated: 23.92 g. IR spectroscopy showed an aldehyde stretching band at 1674 cm−1. To a part of this resin (0.200 g, 0.160 mmol) in 1,2-dichloroethane (8 ml) at room temperature, was added benzyl amine (0.171 g, 1.60 mmol) followed by sodium triacetoxyborohydride (0.339 g, 1.60 mmol). The reaction was allowed to shake 20 h at room temperature, filtered and washed as follows: 3×dimethylformamide/water (90/10) (8 ml); 3×dimethylformamide (8 ml); 3×dichloromethane (8 ml). The resin was suspended in dimethylformamide, treated with (8-naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetic acid (0.274 g, 0.640 mmol), 1-hydroxybenzotrazole (0.099 9, 0.640 mmol) and N,N′-diisopropylcarbodiimide (0.081 g, 0.640 mmol). The reaction was allowed to shake for 20 h at room temperature. The resin was filtered, suspended in dimethylsulfoxide and heated to 40° C. for 1 h. The resin was again filtered, suspended in dimethylsulfoxide (8 ml) and heated to 40° C. for 1 h. The resin was filtered and washed as follows: 3×dimethylformamide/water (90/10) (8 ml); 3×dimethylformamide (8 ml); 3×dichloromethane (8 ml) and air-dried. The resin was treated with trifluoroacetic acid/water (95/5) (8 ml) for 1 h at room temperature. The filtrate was collected and concentrated in vacuo to give the desired product.

reactant | 1-hydroxybenzotriazole | 48.0 mmol, 7.26 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N′-diisopropylcarbodiimide | 48.0 mmol, 6.06 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | N,N-diisopropylethylamine | 48.0 mmol, 6.19 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl amine | 1.60 mmol, 0.171 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 1.60 mmol, 0.339 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (8-naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetic acid | 0.640 mmol, 0.274 g | C1(=CC=CC2=CC=CC=C12)CN1CCC2(C(N(CN2C2=CC=CC=C2)CC(=O)O)=O)CC1 | C26H27N3O3
reactant | N,N′-diisopropylcarbodiimide | 0.640 mmol, 0.081 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | 1,2-dichloroethane | 8 ml | ClCCCl | C2H4Cl2
product | N-Benzyl-2-(8-naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetamide | C(C1=CC=CC=C1)NC(CN1CN(C2(C1=O)CCN(CC2)CC2=CC=CC1=CC=CC=C21)C2=CC=CC=C2)=O | C33H34N4O2
